US07365085B2
a) (3-{3-[(2-chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenyl)-acetaldehyde
A solution of (3-{3-[(2-chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenyl)-acetic acid methyl ester (350 mg, 1.68 mmole) in anhydrous toluene (20 ml) was cooled down to −40° C. in a dry ice/acetonitrile bath. DIBAL-H (1.25 ml, 1.5M solution in toluene, Aldrich) was added in a dropwise fashion. The resulting mixture was stirred at −40° C. for 3 hours and then quenched with 0.01N HCl (aq.). The crude material was concentrated in vacuo and then extracted with EtOAc (3×). The combined organic layers were washed with brine (1×), dried over sodium sulfate, filtered and concentrated in vacuo. Preparative HPLC (YMC, 75×30 mm, 25 ml/min, 70-100% CH3CN) afforded the title compound as an oil, 0.15 g (45%). MS(ES) m/e 566.2 (M+).

reactant | (3-{3-[(2-chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenyl)-acetic acid methyl ester | 1.68 mmole, 350 mg | COC(CC1=CC(=CC=C1)OCCCN(CC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=C(C(=CC=C1)C(F)(F)F)Cl)=O | C34H33ClF3NO3
reactant | DIBAL-H | 1.5M, 1.25 ml | CC(C)C[AlH]CC(C)C
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | (3-{3-[(2-chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenyl)-acetaldehyde | ClC1=C(CN(CCCOC=2C=C(C=CC2)CC=O)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | C33H31ClF3NO2
